US04334111
Part A--Preparation of 4-chlorophenyl trichloroacetate
A 25.6 gram (g) (0.2 mole) sample of 4-chlorophenol was mixed with 40 g of trichloroacetyl chloride at room temperature. The resulting solution was heated under reflux conditions at 120° C. for 10 hours. The temperature was gradually increased to 180° C. over a period of 16 hours. The reaction mixture was then allowed to cool to room temperature. An insoluble solid product was collected by filtration and dried in vacuo. The solid was identified by vapor phase chromatography as 4-chlorophenyl trichloroacetate.

reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | trichloroacetyl chloride | 40 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
product | 4-chlorophenyl trichloroacetate | ClC(C(=O)OC1=CC=C(C=C1)Cl)(Cl)Cl | C8H4Cl4O2
